US06040309
Ethyl 6-(1H-1-imidazolylmethyl)-3-[(3-methoxyphenyl)sulfanyl]benzo[b]thiophene-2-carboxylate
1,8-Diazabicyclo[5.4.0]undec-7-ene (DBU--0.26 ml, 1.7 mmol) was added to a mixture of ethyl 3-chloro-6-(1H-1-imidazolylmethyl)benzo[b]thiophene-2-carboxylate (Preparation 11, 500 mg, 1.6 mmol) and 3-methoxybenzenethiol (0.29 ml, 2.3 mmol) in dimethylformamide (2 ml) under a nitrogen atmosphere. The solution was heated to 60° C. for 5 hours and then partitioned between ethyl acetate and water. The organics were separated and washed with water, dried (magnesium sulfate) and evaporated under reduced pressure. The residue was flash chromatographed on silica gel using 5% methanol in dichloromethane as eluant to give the title compound as a gum (615 mg).

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 1.7 mmol, -0.26 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl 3-chloro-6-(1H-1-imidazolylmethyl)benzo[b]thiophene-2-carboxylate | 1.6 mmol, 500 mg | ClC=1C2=C(SC1C(=O)OCC)C=C(C=C2)CN2C=NC=C2 | C15H13ClN2O2S
reactant | 3-methoxybenzenethiol | 2.3 mmol, 0.29 ml | COC=1C=C(C=CC1)S | C7H8OS
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | Ethyl 6-(1H-1-imidazolylmethyl)-3-[(3-methoxyphenyl)sulfanyl]benzo[b]thiophene-2-carboxylate | 615 mg | N1(C=NC=C1)CC=1C=CC2=C(SC(=C2SC2=CC(=CC=C2)OC)C(=O)OCC)C1 | C22H20N2O3S2
